US03932663
p-Iodobenzoyl chloride was reacted with 4-chlorobiphenyl by the method of Example 6 to give 4'-chloro-4-biphenylyl p-iodophenyl ketone, m.p. 218°C after recrystallisation from benzene.

reactant | p-Iodobenzoyl chloride | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | 4-chlorobiphenyl | ClC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Cl
product | 4'-chloro-4-biphenylyl p-iodophenyl ketone | IC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C19H12ClIO
